US05847159
A mixture of 5-fluoro-3,4-dihydro-1(2H)-naphthalenone (10 g), glyoxylic acid monohydrate (6.2 g) and 85% phosphoric acid (10 ml) was stirred at 90° C. for three hours. After cooling, water was added to the reaction solution, and the precipitated crystals were collected by filtration, washed with water, and dried to give (5-fluoro-3,4-dihydro-1-oxo-2(1H)-naphthalenylidene)acetic acid (13 g).

reactant | 5-fluoro-3,4-dihydro-1(2H)-naphthalenone | 10 g | FC1=C2CCCC(C2=CC=C1)=O | C10H9FO
reactant | glyoxylic acid monohydrate | 6.2 g | O.C(C=O)(=O)O
reactant | phosphoric acid | 10 ml | P(O)(O)(O)=O | H3O4P
solvent | water | O | H2O
product | (5-fluoro-3,4-dihydro-1-oxo-2(1H)-naphthalenylidene)acetic acid | 13 g | FC1=C2CCC(C(C2=CC=C1)=O)=CC(=O)O | C12H9FO3
